Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
IV Dye, Iodine Containing
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting x 1 day
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ s/p sigmoid colectomy for recurrent diverticulitis on ___ 
discharged home on ___ after tolerating a low residue diet 
and po antibiotics for a wound infection.  She returned one week 
after discharge with 1 day of intense nausea and emesis 
(non-bloody, non-biliary).  The nausea is associated with a 
slight increase in epigastric abdominal pain without any 
significant tenderness on exam. 
 
Past Medical History:
diverticulitis s/p lap sigmoid colectomy c/b wound infection 
Migraines
Left finger cellulitis
 
Social History:
___
Family History:
father with h/o colitis
 
Physical Exam:
afebrile, vital signs within normal limits
NAD, talkative
EOM full, PERRL, anicteric sclera
Chest clear
RRR, no murmurs
Abdomen soft, round, non-tender, non-distended with 6cm of open 
transverse incision through the subcutis with intact deep 
fascia; no erythema or induration; minimal serous output.  
___ without edema, 2+ DP pulses
 
Pertinent Results:
CT ABDOMEN W/O CONTRAST  ___ 6:___BDOMEN W/O CONTRAST; CT PELVIS W/O CONTRAST

Reason: r/o abscess-NO IV contrast, PO only 
Field of view: 40

UNDERLYING MEDICAL CONDITION:
___ year old woman with h/o divertic s/p colectomy here with 
elevated WBC and nausea 
REASON FOR THIS EXAMINATION:
r/o abscess-NO IV contrast, PO only 
CONTRAINDICATIONS for IV CONTRAST: RF

INDICATION: ___ woman with elevated white blood cell 
count and nausea, history of recent colectomy for recurrent 
diverticulitis.

COMPARISON: CT abdomen and pelvis of ___.

TECHNIQUE: MDCT acquired axial images were obtained through the 
abdomen and pelvis after the administration of oral contrast. No 
intravenous contrast was administered. Multiplanar reformatted 
images were also obtained.

FINDINGS: 

The lung bases are clear. A 4-mm calcified granuloma in the 
right lung base is unchanged. Limited images of the heart are 
unremarkable. There is no pericardial effusion.

In the abdomen, the liver, gallbladder, spleen, kidneys, adrenal 
glands, pancreas, stomach, and intra-abdominal loops of small 
and large bowel are unremarkable. There is no mesenteric 
lymphadenopathy. There is no free fluid or free air in the 
abdomen. Immediately adjacent to the left common iliac artery, 
is a linear focus of hyper-attenuating material, with the 
appearance of suture material, largely unchanged from the prior 
examination.

In the pelvis, suture material is seen in the distal sigmoid 
colon, unchanged in appearance from prior examination and 
consistent with colonic anastomosis. There is no evidence of 
stricture or obstruction at this site. There is no local fluid 
collection to indicate abscess. There are no signs of 
inflammation. The intrapelvic loops of small and large bowel are 
unremarkable, containing air and stool in a normal pattern 
without bowel dilatation. The appendix is visualized and is 
normal. The urinary bladder, uterus, and adnexa are 
unremarkable. There are no abnormally enlarged lymph nodes in 
the pelvis. A fat-containing left inguinal hernia is unchanged.

Examination of soft tissues reveals stranding and subcutaneous 
air of the soft tissues along the midline lower anterior 
abdominal wall, slightly larger in size than on the prior 
examination of approximately 2 weeks ago. Additionally, a small 
focus of fluid attenuating material now extends from the 
abdominal wall musculature through the subcutaneous tissues, and 
appears to drain into an external collecting device. No discrete 
fluid collection is identified to indicate abscess formation, or 
that would be amenable to drainage. However, this appearance 
suggests continued cellulitis.

Examination of osseous structures reveals mild degenerative 
disease at L5-S1 and are otherwise unremarkable.

IMPRESSION:
1. Stable appearance of sigmoid colon anastomosis without 
obstruction or abscess formation.
2. Stranding and subcutaneous air along the lower abdominal wall 
in the midline, indicating cellulitis, but without discrete or 
drainable fluid collection

The study and the report were reviewed by the staff radiologist.
___. ___
___. ___
___. ___: SUN ___ 9:36 AM
____________________________________________

___ 03:45AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:20AM   GLUCOSE-124* UREA N-20 CREAT-1.4* SODIUM-138 
POTASSIUM-4.8 CHLORIDE-98 TOTAL CO2-30 ANION GAP-15
___ 02:20AM   estGFR-Using this
___ 02:20AM   ALT(SGPT)-38 AST(SGOT)-20 ALK PHOS-107 TOT 
BILI-0.6
___ 02:20AM   LIPASE-62*
___ 02:20AM   WBC-15.4*# RBC-3.17* HGB-9.4* HCT-28.2* 
MCV-89 MCH-29.7 MCHC-33.4 RDW-13.7
___ 02:20AM   NEUTS-85.8* LYMPHS-10.0* MONOS-2.5 EOS-1.2 
BASOS-0.5
___ 02:20AM   PLT COUNT-730*#
 
Brief Hospital Course:
GI: Admitted in early morning on ___ the pt was made NPO with 
IVF resuscitation.  A abdominal/pelvic CT was done and 
demonstrated a stable sigmoid anastomosis without any fluid 
collections or free air.  Over the first night her urine output 
increased and a foley was not placed.  Due to her constant loose 
stools, toxin screens of C.diff were sent and returned negative. 
 By HD2, the nausea persisted an a GI consult was obtained.  The 
GI service believed the nausea to be related to baseline reflux 
exacerbated by her postop course, including a wound infection.  
Per their recommendations, she was started on an antacid and 
upon discharge she will follow up with a gastroenterologist to 
determine her H.pylori status.   Prior to discharge, she was 
tolerating a low residue diet and able to hydrate herself.  
 
Discharge Medications:
1. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*0 Tablet(s)* Refills:*0*
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
4. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).
Disp:*0 * Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
nausea and vomiting

 
Discharge Condition:
Followup Instructions:
___